US06455559B1
2-(4-aminophenyl)propanoic-acid
10 g (0.05 mol) of 2-(4-nitrophenyl)propanoic acid were dissolved in a mixture of 5 ml of water and 100 ml of methanol and 0.65 g of Pd/C 5% were added. The mixture was submitted to hydrogenation at 60 psi for 2 hours at room temperature. After the separation of the catalyst by filtration on celite the methanol was evaporated under vacuum and the title compound was crystallised from water on cooling (7 g; 85 % yield).

reactant | 2-(4-nitrophenyl)propanoic acid | 0.05 mol, 10 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C | C9H9NO4
solvent | water | 5 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.65 g | [Pd] | Pd
product | 2-(4-aminophenyl)propanoic-acid | 85 % yield | NC1=CC=C(C=C1)C(C(=O)O)C | C9H11NO2
